US08614213B2
Step 2: 4-Benzylamino-3-methyl-cyclohexanecarboxylic acid ethyl ester
A mixture comprising 3-methyl-4-oxo-cyclohexanecarboxylic acid ethyl ester (1.00 g, 5.43 mmol) and benzylamine (0.58 g, 5.43 mmol) in DCE (50 mL) is treated with sodium triacetoxyborohydride (2.30 g, 10.9 mmol) and stirred at RT for 2 hours. The mixture is partitioned between DCM and water and the organic portion is separated, dried (MgSO4) and concentrated in vacuo. Purification by chromatography on silica eluting with iso-hexane:EtOAc (4:1 increasing to 1:1) affords the title compound. 1H NMR (400 MHz, DMSO-d6) δ 7.32 (4H, m), 7.20 (1H, m) 4.04 (2H, q), 3.72 (2H, m), 2.50-1.30 (9H, m), 1.19 (4H, m), 0.89 (3H, d).

reactant | 3-methyl-4-oxo-cyclohexanecarboxylic acid ethyl ester | 5.43 mmol, 1.00 g | C(C)OC(=O)C1CC(C(CC1)=O)C | C10H16O3
reactant | benzylamine | 5.43 mmol, 0.58 g | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 10.9 mmol, 2.30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCE | 50 mL | ClCCCl | C2H4Cl2
product | 4-Benzylamino-3-methyl-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(C(CC1)NCC1=CC=CC=C1)C | C17H25NO2
